US08138352B2
(−)-7-t-Butoxycarbonylamino-7-methyl-5-azaspiro[2.4]heptane
(−)-7-Amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane D-mandelate (5.99 g) was dissolved in toluene (60 mL). To the solution, 5N Aqueous sodium hydroxide (60 mL) was added, and the mixture was stirred at room temperature, followed by separation of the toluene layer. Toluene was also added to the remaining aqueous layer for extraction. All the toluene layers were combined, and t-butyl dicarbonate (19.0 mL) was added to the combined toluene layer, followed by stirring at room temperature for 2 hours. After completion of reaction, 10% aqueous citric acid was added to the reaction mixture, to thereby extract the aqueous citric acid layer. Separately, 10% aqueous citric acid was added to the remaining toluene layer, to thereby separate another aqueous citric acid layer. Thereafter, all the aqueous layers were combined, and the combined aqueous layer was alkalified with 5N aqueous sodium hydroxide (30 mL). Subsequently, toluene was added to the alkalified aqueous layer so as to extract the organic layer, and the solvent of the organic layer obtained through extraction was evaporated under reduced pressure. Methanol (60.0 mL) was added to the residue, and 5% palladium carbon (0.59 g, water content: 50%) was added to the mixture, followed by stirring at room temperature in a hydrogen atmosphere. After 14 hours, 5% palladium carbon was removed through filtration. The filtrate was concentrated under reduced pressure, to thereby yield the title product (3.576 g, yield: 97%). This product can be purified through recrystallization from a solvent such as hexane, heptane, or acetonitrile, or formation of a crystalline salt with, for example, oxalic acid.

reactant | (−)-7-Amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane D-mandelate | 5.99 g | C([C@H](O)C1=CC=CC=C1)(=O)O.NC1(CN(CC12CC2)CC2=CC=CC=C2)C
reactant | sodium hydroxide | 5N, 60 mL | [OH-].[Na+]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | (−)-7-t-Butoxycarbonylamino-7-methyl-5-azaspiro[2.4]heptane | 3.576 g, yield: 97% | C(C)(C)(C)OC(=O)NC1(CNCC12CC2)C | C12H22N2O2
